US04487779
3,5-dimethyl-4-nitrosophenol
750 ml of concentrated HCl are added to a solution of 3,5-dimethyl phenol (80.6 g) in 750 ml of 95% ethyl alcohol. The mixture is cooled to 0° C. in an ice/methanol bath. While maintaining the temperature of the reaction mixture below 5° C., a solution of NaNO2 (69.0 g) in 150 ml of H2O is added dropwise to the reaction mixture. The mixture is stirred at 0° C. for more than an hour and then poured into 9 liters of water. The aqueous mixture is filtered to give a yellow solid which is recrystallized from hot methanol and filtered to give 71.45 grams of a yellow solid, M.P. 180°-181° C. (dec.).

reactant | HCl | 750 ml | Cl | ClH
reactant | 3,5-dimethyl phenol | 80.6 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | NaNO2 | 69.0 g | N(=O)[O-].[Na+]
solvent | ethyl alcohol | 750 ml | C(C)O | C2H6O
solvent | H2O | 150 ml | O | H2O
solvent | water | 9 liters | O | H2O
product | 3,5-dimethyl-4-nitrosophenol | 71.45 grams | CC=1C=C(C=C(C1N=O)C)O | C8H9NO2
